US05707982
STEP B: [(3-bromopropyl)-oxy]-dimethyl-(1,1-dimethyl-ethyl)-silane
1.55 g of imidazole were added to a solution of 3.97 g of 8-bromo octanol in 19 ml of dimethylformamide, and over 10 minutes, 3.32 g of tertbutyl chloro dimethyl silane in solution in 4,7 ml tetrahydrofuran were added. The mixture was stirred for one hour at ambient temperature and the insoluble part was filtered off. The filtrate was evaporated to dryness under reduced pressure and the residue was chromatographed on silica (eluant: cyclohexane-toluene 8-2) to obtain 5.4 g of the expected product.

reactant | imidazole | 1.55 g | N1C=NC=C1 | C3H4N2
reactant | 8-bromo octanol | 3.97 g | BrCCCCCCCCO | C8H17BrO
reactant | tertbutyl chloro dimethyl silane | 3.32 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | dimethylformamide | 19 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 4,7 ml | O1CCCC1 | C4H8O
product | [(3-bromopropyl)-oxy]-dimethyl-(1,1-dimethyl-ethyl)-silane | 5.4 g | BrCCCO[Si](C(C)(C)C)(C)C | C9H21BrOSi
